US05578620
3-(2-t-Butyldimethylsilyloxy-1,1-dimethylethyl)-5-(3-chlorophenoxymethyl)oxazolidin-2-one
A procedure similar to that described in Preparation 11 was repeated, except that 5.13 g of 1-(3-chlorophenoxymethyl)-2-(2-t-butyldimethylsilyloxy-1,1-dimethylethylamino)ethanol (prepared as described in Preparation 105), 50 ml of anhydrous dimethylformamide and 2.59 g of N,N'-carbonyldiimidazole were used, to give 5.27 g of the title compound having an Rf value of 0.33 (on silica gel thin layer chromatography, using a 1:4 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | 1-(3-chlorophenoxymethyl)-2-(2-t-butyldimethylsilyloxy-1,1-dimethylethylamino)ethanol | 5.13 g | ClC=1C=C(OCC(CNC(CO[Si](C)(C)C(C)(C)C)(C)C)O)C=CC1 | C19H34ClNO3Si
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-(2-t-Butyldimethylsilyloxy-1,1-dimethylethyl)-5-(3-chlorophenoxymethyl)oxazolidin-2-one | 5.27 g | [Si](C)(C)(C(C)(C)C)OCC(C)(C)N1C(OC(C1)COC1=CC(=CC=C1)Cl)=O | C20H32ClNO4Si
